US08497278B2
3-Methylsulfanyl-4-(6-methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-4H-[1,2,4]thiadiazole-5-thione (129)
The title compound was prepared according to Method A and the experimentals described for compound 92 from 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride and 3-(methylthio)-1,2,4-thiadiazole-5(4H)-thione. m/e+ 399 for C19H19N4S3 [M+H]+; 1H-NMR (400 MHz, CDCl3) δ 7.96 (s, 1H), 7.67 (d, J=7.7 Hz, 2H), 7.57 (d, J=9.1 Hz, 1H), 7.27 (d, J=8.0 Hz, 2H), 7.11 (d, J=9.1 Hz, 1H), 5.04 (s, 2H), 2.67 (s, 3H), 2.39 (s, 3H), 2.36 (s, 3H) ppm; 13C-NMR (100 MHz, CDCl3, δ) 186.346, 171.423, 145.801, 144.701, 138.203, 130.870, 129.680, 128.573, 128.300, 122.825, 121.733, 117.047, 111.982, 29.739, 21.444, 18.577, 14.968, ppm.

reactant | 3-(chloromethyl)-6-methyl-2-p-tolylimidazo[1,2-a]pyridine hydrochloride | Cl.ClCC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C
reactant | 3-(methylthio)-1,2,4-thiadiazole-5(4H)-thione | CSC1=NSC(N1)=S | C3H4N2S3
product | 3-Methylsulfanyl-4-(6-methyl-2-p-tolyl-imidazo[1,2-a]pyridin-3-ylmethyl)-4H-[1,2,4]thiadiazole-5-thione | CSC1=NSC(N1CC1=C(N=C2N1C=C(C=C2)C)C2=CC=C(C=C2)C)=S | C19H18N4S3
